US07601752B2
2-Nitro-5-(3-oxo-morpholin-4-yl)-benzonitrile (1.1 g) was dissolved in THF (80 ml) and hydrogenated with hydrogen (1 atm) over Pd/C 10% (350 mg) for 18 h at 25° C. The reaction mixture was then filtered through decalite and precipitated (AcOEt/heptane) to yield 2-amino-5-(3-oxo-morpholin-4-yl)-benzonitrile as a white solid (580 mg). MH+=218.4

reactant | 2-Nitro-5-(3-oxo-morpholin-4-yl)-benzonitrile | 1.1 g | [N+](=O)([O-])C1=C(C#N)C=C(C=C1)N1C(COCC1)=O | C11H9N3O4
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | hydrogen | [H][H] | H2
catalyst | Pd/C | 350 mg | [Pd] | Pd
product | 2-amino-5-(3-oxo-morpholin-4-yl)-benzonitrile | 580 mg | NC1=C(C#N)C=C(C=C1)N1C(COCC1)=O | C11H11N3O2
